US07501425B1
1-Isopropyl-3-(4-methoxybenzyl)-7-[4-(4-methylpiperazin-1-yl)phenylamino]-1H-pyrimido[4,5-d]pyrimidine-2,4-dione
A mixture of 700 mg (1.78 mmol) of 7-(imidazol-1-yl)-1-isopropyl-3-(4-methoxybenzyl)-1H-pyrimido[4,5-d]pyrimidine-2,4-dione and 1.02 g (5.35 mmol) of 1-(4-aminophenyl)-4-methylpiperazine is heated at 180° C. for 2 hours. The reaction mixture is cooled, dissolved into chloroform, and chromatographed on silica eluting with 5:95 methanol/chloroform. The resulting material is crystallized from methanol/water to give 530 mg (58%) of the title compound: mp 215-216° C.

reactant | 7-(imidazol-1-yl)-1-isopropyl-3-(4-methoxybenzyl)-1H-pyrimido[4,5-d]pyrimidine-2,4-dione | 1.78 mmol, 700 mg | N1(C=NC=C1)C1=NC=C2C(=N1)N(C(N(C2=O)CC2=CC=C(C=C2)OC)=O)C(C)C | C20H20N6O3
reactant | 1-(4-aminophenyl)-4-methylpiperazine | 5.35 mmol, 1.02 g | NC1=CC=C(C=C1)N1CCN(CC1)C | C11H17N3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-Isopropyl-3-(4-methoxybenzyl)-7-[4-(4-methylpiperazin-1-yl)phenylamino]-1H-pyrimido[4,5-d]pyrimidine-2,4-dione | 530 mg, 58% | C(C)(C)N1C(N(C(C=2C1=NC(=NC2)NC2=CC=C(C=C2)N2CCN(CC2)C)=O)CC2=CC=C(C=C2)OC)=O | C28H33N7O3
